US08980877B2
(±)-(E)-3-[1′-(1-Methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester (350 mg, 0.76 mmol) was hydrolyzed with 1 M NaOH (0.99 ml) following the procedure described in Example 30, Step A, giving ((±)-(E)-3-[1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid as a white solid [LC-MS: (ES+) MH+: 445]. The obtained acid was suspended in DCM (15 ml), treated with TEA (0.16 ml, 1.14 mmol) and then with EDC (218 mg, 1.14 mmol), HOBt (154 mg, 1.14 mmol) and NH2OTHP (106 mg, 0.905 mmol) following the procedure described in Example 30, Step B, giving (±)-(E)-3-[1′(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (280 mg) as a light yellow solid.

reactant | (±)-(E)-3-[1′-(1-Methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester | 0.76 mmol, 350 mg | COC(\C=C\C=1C=C2C(CC3(CCN(CCC3)CC3=CN(C4=CC=CC=C34)C)OC2=CC1)=O)=O | C28H30N2O4
reactant | NaOH | 1 M, 0.99 ml | [OH-].[Na+]
product | (±)-(E)-3-[1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid | CN1C=C(C2=CC=CC=C12)CN1CCC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C27H28N2O4
